US08278482B2
1-(3-Azido-3-methylbutyl)-1-azoniabicyclo[2.2.2]octane methanesulfonate
In a 1 dram vial, a solution of 3-azido-3-methylbutyl methanesulfonate (0.45 g, 2.19 mmol) and quinuclidine (0.21 g, 1.9 mmol) in 2-pentanone (2.0 mL) was heated on a heat block at 110° C. for 16 h. The suspension was cooled, filtered, and rinsed with diethyl ether (50 mL). The filtrate was discarded and the solid was dried under high vacuum to give a white solid. (052 g, 74.7%). 1H NMR (D2O, 400 MHz): δ 1.35 (s, 6H), 1.95-2.05 (m, 8H), 2.18-2.22 (pent, J=3.6, 1H), 2.82 (s, 3H), 3.24-3.30 (m, 2H), 3.38-3.45 (m, 6H). LRMS (ESI+) for C12H23N4+(223.2); Found: 223 (M+).

reactant | 3-azido-3-methylbutyl methanesulfonate | 2.19 mmol, 0.45 g | CS(=O)(=O)OCCC(C)(C)N=[N+]=[N-] | C6H13N3O3S
reactant | quinuclidine | 1.9 mmol, 0.21 g | N12CCC(CC1)CC2 | C7H13N
solvent | 2-pentanone | 2.0 mL | CC(CCC)=O | C5H10O
product | 1-(3-Azido-3-methylbutyl)-1-azoniabicyclo[2.2.2]octane methanesulfonate | CS(=O)(=O)[O-].N(=[N+]=[N-])C(CC[N+]12CCC(CC1)CC2)(C)C | InChI=1S/C12H23N4.CH4O3S/c1-12(2,14-15-13)6-10-16-7-3-11(4-8-16)5-9-16;1-5(2,3)4/h11H,3-10H2,1-2H3;1H3,(H,2,3,4)/q+1;/p-1
